US07498337B2
6-chloropyridin-3-ylsulfonyl chloride
Under ice-cooling, thionyl chloride (12 mL) was added dropwise over 1 hr to water (70 mL) and the mixture was stirred at room temperature for 12 hr to give a sulfur dioxide-containing solution. Separately, under ice-cooling, 5-amino-2-chloropyridine (5.0 g) was added to concentrated hydrochloric acid (40 mL) and the mixture was stirred. An aqueous solution (12.5 mL) of sodium nitrite (2.88 g) was added dropwise while keeping the inside temperature at not higher than 5° C., and the mixture was further stirred for 15 min. The reaction mixture was gradually added at 5° C. to the above-mentioned sulfur dioxide-containing solution added with cuprous chloride (70 mg). Under ice-cooling, the mixture was further stirred for 30 min. The precipitate was collected by filtration, and washed with water and ethanol to give the title compound (yield 4.79 g, 58%).

reactant | 5-amino-2-chloropyridine | 5.0 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | sodium nitrite | 12.5 mL, 2.88 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | hydrochloric acid | 40 mL | Cl | ClH
product | 6-chloropyridin-3-ylsulfonyl chloride | yield 4.79 g, 58% | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
